US08198483B2
iii) 5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-3-{6-[2-{(3-nitrophenyl)-methoxy}ethoxy]hexyl}-1,3-oxazolidin-2-one
A solution of (5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one (4.40 g) in anhydrous DMF (75 ml) was treated under nitrogen at 0° with sodium hydride (60% dispersion in mineral oil, 1.04 g) and the mixture stirred for 40 min. A solution of 1-[(2-[(6-bromohexyl)oxy]ethoxy)methyl]-3-nitrobenzene (8.12 g) in DMF (10 ml) was added and the mixture stirred at 20° for 2 h. Phosphate buffer (pH 6.5, 100 ml) and water (100 ml) were added and the product extracted with EtOAc (4×100 ml). The combined organic layer was washed with water (3×100 ml) and dried (Na2SO4). The solvent was removed in vacuo to give a residue that was purified by Biotage. Elution with EtOAc-PE (1:1 then 3:2) followed by solvent evaporation in vacuo gave the title compound (9.50 g). LCMS RT=3.75 min, ES+ve 529 (MH)+.

reactant | (5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one | 4.40 g | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CNC(O2)=O)C | C13H15NO4
reactant | sodium hydride | 1.04 g | [H-].[Na+]
reactant | 1-[(2-[(6-bromohexyl)oxy]ethoxy)methyl]-3-nitrobenzene | 8.12 g | BrCCCCCCOCCOCC1=CC(=CC=C1)[N+](=O)[O-] | C15H22BrNO4
reactant | Phosphate | 100 ml, pH 6.5 | P(=O)([O-])([O-])[O-]
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | 5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-3-{6-[2-{(3-nitrophenyl)-methoxy}ethoxy]hexyl}-1,3-oxazolidin-2-one | 9.50 g | CC1(OCC2=C(O1)C=CC(=C2)C2CN(C(O2)=O)CCCCCCOCCOCC2=CC(=CC=C2)[N+](=O)[O-])C | C28H36N2O8
